US04595745
To 71 g of aniline was added 22.3 g of powdery 3,5-dinitrobenzoyl chloride with stirring. Generation of heat was observed until the temperature reached 50° C. A yellowish orange paste was obtained. The paste was stirred for 10 minutes and, then, when the liquid reaction mixture was poured into 1 l of water and the mixture was rendered acidic by concentrated hydrochloric acid (35%), a white precipitate was formed. The precipitate was recovered by filtration and dried to obtain 23.58 g of 3,5-dinitrobenzanilide (the yield was 84.6%).

reactant | aniline | 71 g | NC1=CC=CC=C1 | C6H7N
reactant | 3,5-dinitrobenzoyl chloride | 22.3 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1 l | O | H2O
product | 3,5-dinitrobenzanilide | 23.58 g, yield was 84.6% | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC=CC=C2)C=C(C1)[N+](=O)[O-] | C13H9N3O5
